US04049693
A. (2,2-Dichloro-1,1-difluoroethoxy)benzene
In a 500 ml stirred reaction flask equipped with thermometer, air condenser, dropping funnel and ice water bath was placed 94 g (one mole) of phenol and 300 ml of acetone and the mixture was cooled to 10° C. 11.0 Grams of powdered KOH (85 percent) was then added. After the mixture was stirred for one-half hour at 10° C., 2,2-dichloro-1,1-difluoroethene was introduced over a period of one hour while maintaining the temperature at about 10-12° C. At the end of the addition of the dichlorodifluoroethene, a rapid reaction increased the temperature to 50° C. A Dry Ice(R) bath was substituted for the ice bath to cool the reaction mixture to 10° C. rapidly. After stirring overnight, the reaction mixture was poured over two liters of ice, stirred, allowed to settle and the oil layer was separated. The oil layer was washed with bicarbonate of soda solution and with water and the nearly colorless organic layer was separated. After drying over desiccant-grade magnesium sulfate, the organic layer was filtered to give the first-step product.

reactant | phenol | one mole, 94 g | C1(=CC=CC=C1)O | C6H6O
reactant | KOH | [OH-].[K+]
reactant | 2,2-dichloro-1,1-difluoroethene | ClC(=C(F)F)Cl | C2Cl2F2
reactant | dichlorodifluoroethene | ClC(=C(F)Cl)F | C2Cl2F2
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | (2,2-Dichloro-1,1-difluoroethoxy)benzene | ClC(C(OC1=CC=CC=C1)(F)F)Cl | C8H6Cl2F2O
